US05223232
Preparation of 2-tetradecyl-N,N'-dimethyl-N,N'-dibutyl-propane diamide (compound 1)
Into a 1 liter reactor, scavenged by an argon stream, is introduced 0.1 mole of N,N'-dimethyl-N,N'-dibutyl-propane diamide dissolved in 400 ml of tetrahydrofuran. Cooling takes place to -50° C. with the aid of an acetone and solid carbon dioxide bath and a N-butyl lithium solution prepared from 0.1 mole of N-butyl lithium is poured into 100 ml of anhydrous tetrahydrofuran. Under the same conditions, pouring takes place of a solution of tetradecyl iodide prepared from 0.1 mole of tetradecyl iodide and 100 ml of anhydrous tetrahydrofuran. When pouring is ended, the temperature is allowed to rise to ambient temperature, followed by refluxing the tetrahydrofuran for 3 hours. It is left to cool and then hydrolyzed with a water-ethanol mixture. The tetrahydrofuran is expelled and in this way a precipitate is formed. It is taken up with methylene chloride, washed with water, the organic layer is dried and then the solvent is expelled prior to distillation.

reactant | N,N'-dimethyl-N,N'-dibutyl-propane diamide | 0.1 mole | CN(C(CC(=O)N(CCCC)C)=O)CCCC | C13H26N2O2
reactant | acetone | CC(=O)C | C3H6O
reactant | tetradecyl iodide | C(CCCCCCCCCCCCC)I | C14H29I
reactant | tetradecyl iodide | 0.1 mole | C(CCCCCCCCCCCCC)I | C14H29I
reactant | water ethanol | O.C(C)O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-tetradecyl-N,N'-dimethyl-N,N'-dibutyl-propane diamide | C(CCCCCCCCCCCCC)C(C(=O)N(CCCC)C)C(=O)N(CCCC)C | C27H54N2O2
